US07268230B2
4-[(4-Fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline (150 mg, 0.34 mmol) was suspended in methylene chloride (5 ml), and diisopropylethylamine (72 μl, 0.41 mmol) and acetyl chloride (29 μl, 0.41 mmol) were added. The mixture was stirred for half an hour at ambient temperature, washed with saturated sodium hydrogen carbonate solution, dried (MgSO4) and concentrated under reduced pressure. The solid was suspended in methanol and filtered off to give 7-[(1-acetylpiperidin-4-yl)methoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (117 mg, 71%).

reactant | 4-[(4-Fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline | 0.34 mmol, 150 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCNCC1)C | C24H25FN4O3
reactant | diisopropylethylamine | 0.41 mmol, 72 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.41 mmol, 29 μl | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 7-[(1-acetylpiperidin-4-yl)methoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 117 mg, 71% | C(C)(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C26H27FN4O4
